US09120791B2
Step A: 1-tert-Butyl 3-methyl 4-formyl-1,3-piperazinedicarboxylate
To a solution of pentafluorophenol in 520 mL of anhydrous ether at 0° C. there are added in succession 49 g of 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide (286 mmol) in portions and 12 mL of formic acid (312 mmol). The whole is stirred at ambient temperature for 2 hours. There is subsequently added a mixture of 32 g of 1-tert-butyl 3-methyl 1,3-piperazinedicarboxylate (130 mmol) and 18 mL of triethylamine (130 mmol) in solution in 520 mL of CH2Cl2. The whole is stirred overnight at ambient temperature. The reaction mixture is hydrolysed with an 1N aqueous HCl solution and extracted with CH2Cl2. The organic phases are subsequently combined and then washed with a saturated aqueous NaHCO3 solution and then with a saturated aqueous NaCl solution until neutral. After drying over MgSO4, filtration and concentration to dryness, the product is isolated by chromatography over silica gel (petroleum ether/AcOEt gradient: 0-30%). The title product is obtained in the form of an oil.

reactant | pentafluorophenol | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)-carbodiimide | 286 mmol, 49 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | formic acid | 312 mmol, 12 mL | C(=O)O | CH2O2
reactant | 1-tert-butyl 3-methyl 1,3-piperazinedicarboxylate | 130 mmol, 32 g | N1(CC(NCC1)C(=O)OC)C(=O)OC(C)(C)C | C11H20N2O4
reactant | triethylamine | 130 mmol, 18 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | ether | 520 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 520 mL | C(Cl)Cl | CH2Cl2
product | 1-tert-Butyl 3-methyl 4-formyl-1,3-piperazinedicarboxylate | C(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C12H20N2O5
